US07683176B2
4-Chloro-N-{5-chloro-2-[4-(3-hydroxy-1-methyl-propyl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide
A mixture of 3-{3-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-[1,2,4]triazol-4-yl}-butyric acid ethyl ester (27 mg, 0.05 mmol), lithium borohydride (2.0M, 0.14 ml, 0.28 mmol), 1.5 ml of THF and 0.02 ml of methanol was stirred at room temperature for 2 hours. The mixture was mixed with diluted HCl (1.0M), extracted with ethyl acetate, and the extracts were combined and washed with brine and dried. After concentration the residue was purified by prep TLC to afford title compound as a white solid. 1H NMR: (DMSO-d6, ppm): 9.03 (s, 1H), 8.30 (m, 1H), 8.11 (m, 1H), 8.02 (m, 1H), 7.91 (m, 1H), 7.83 (m, 1H), 3.28 (m, 1H), 3.19 (m, 2H), 1.91 (m, 2H), 1.42 (d, 3H). MS (ES) [M+H]+ expected 510.0, found 510.0.

reactant | 3-{3-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridin-2-yl]-[1,2,4]triazol-4-yl}-butyric acid ethyl ester | 0.05 mmol, 27 mg | C(C)OC(CC(C)N1C(=NN=C1)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)=O | C20H18Cl2F3N5O4S
reactant | lithium borohydride | 0.28 mmol, 2.0M, 0.14 ml | [BH4-].[Li+]
reactant | THF | 1.5 ml | C1CCOC1 | C4H8O
reactant | HCl | 1.0M | Cl | ClH
solvent | methanol | 0.02 ml | CO | CH4O
product | 4-Chloro-N-{5-chloro-2-[4-(3-hydroxy-1-methyl-propyl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C(CCO)C)C(F)(F)F | C18H16Cl2F3N5O3S
